US04272507
A solution of 135 mg of sulfuryl chloride in 5 ml of methylene chloride is added dropwise to a solution of 283 mg (1 mmole) of 4-(2,6-dichloroanilino)-3-thiophenacetonitrile in 20 ml of methylene chloride at -15°. After 10 minutes, a sodium dithionite solution and 3 ml of 2 N sodium hydroxide solution are added. The organic phase is separated off, dried, clarified with bleaching earth (for example Tonsil®) and concentrated. Recrystallization of the residue from methanol yields 5-chloro-4-(2,6-dichloroanilino)-3-thiophenacetonitrile (m. 128° to 128.5°).

reactant | sulfuryl chloride | 135 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 4-(2,6-dichloroanilino)-3-thiophenacetonitrile | 1 mmole, 283 mg | ClC1=C(NC=2C(=CSC2)CC#N)C(=CC=C1)Cl | C12H8Cl2N2S
reactant | sodium dithionite | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydroxide | 2 N, 3 ml | [OH-].[Na+]
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 5-chloro-4-(2,6-dichloroanilino)-3-thiophenacetonitrile | ClC1=C(C(=CS1)CC#N)NC1=C(C=CC=C1Cl)Cl | C12H7Cl3N2S
